US09169254B2
Tetrabutylammonium fluoride (1.0 M in THF, 5.6 ml, 5.6 mmol) was added to a solution of 1-oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester (400 mg, 1.87 mmol) in tetrahydrofuran (5 ml), and the mixture was heated under reflux for 36 hours. The reaction solution was cooled and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate-hexane) to give 4-fluoromethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (87 mg, 19%).

reactant | Tetrabutylammonium fluoride | 5.6 mmol, 1.0 M, 5.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester | 1.87 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-fluoromethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 87 mg, 19% | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CF | C11H20FNO3
